US04721821
A catalytic amount of a metal catalyst (0.01 g metal porfin or 0.005 g metal (AcAc)2 +0.01 g crown-ether) was added to a 33% methanolic KOH-solution, (34 g KOH in 100 ml methanol). The reaction mixture was cooled to 25° C., 2-nitrotoluene (13.7 g, 0.1 mol) was added and air was passed through the reaction mixture, the temperature of the reaction mixture being kept at 25° C. After 12 hours the passsing through of air was interrupted and 150 ml water and 50 ml methanol was added. The reaction mixture was filtered. The filter layer was dissolved in boiling toluene (benzene), was filtered when hot, was cooled and was filtered again. Recrystallisation from ethanol gave a product with m.p. 120°-121° C. Yield 24-27%. As a by-product o-nitrobenzoic acid was formed.

reactant | ether | CCOCC | C4H10O
reactant | KOH | [OH-].[K+]
reactant | KOH | 34 g | [OH-].[K+]
reactant | 2-nitrotoluene | 0.1 mol, 13.7 g | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | water | 150 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | o-nitrobenzoic acid | Yield 24-27% | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
